US08975252B2
4N HCl/dioxane (1 ml) was added under ice cooling to (2R)-2-({cyclopropyl[4-methoxy-3-(3-methoxypropoxy)benzyl]amino}carbonyl)morpholin-4-carboxylic acid tert-butyl ester (a compound of Reference Example 8, 368 mg) dissolved in chloroform (4 ml), and the mixture was stirred at room temperature for 2 hours. Water was added to the mixture under ice cooling and the organic layer was separated. The aqueous layer was extracted with chloroform after being adjusted to pH 9 by addition of a saturated aqueous solution of sodium bicarbonate. The organic layer was washed with a saturated brine, dried over magnesium sulfate and concentrated in vacuo. The resulting residue was purified by NH-silica gel column chromatography (eluting solvent; n-hexane:ethyl acetate=1:1 to ethyl acetate only) to give (2R)—N-cyclopropyl-N-[4-methoxy-3-(3-methoxypropoxy)benzyl]morpholine-2-carboxamide (230 mg) as a colorless oil.

reactant | HCl dioxane | 4N, 1 ml | Cl.O1CCOCC1
reactant | (2R)-2-({cyclopropyl[4-methoxy-3-(3-methoxypropoxy)benzyl]amino}carbonyl)morpholin-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1)C(=O)N(CC1=CC(=C(C=C1)OC)OCCCOC)C1CC1 | C25H38N2O7
reactant | Water | O | H2O
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
product | (2R)—N-cyclopropyl-N-[4-methoxy-3-(3-methoxypropoxy)benzyl]morpholine-2-carboxamide | 230 mg | C1(CC1)N(C(=O)[C@H]1CNCCO1)CC1=CC(=C(C=C1)OC)OCCCOC | C20H30N2O5
